US04673746
The procedure of Example 24b is repeated except that 38 g of 2,3-dichloro-4-methoxy-2'-methylbenzophenone is combined with 34.6 g of AlCl3 in 300 ml of benzene. The resultant product is recrystallized from toluene to yield 2,3-dichloro-4-hydroxy-2'-methylbenzophenone.

reactant | 2,3-dichloro-4-methoxy-2'-methylbenzophenone | 38 g | ClC1=C(C(=O)C2=C(C=CC=C2)C)C=CC(=C1Cl)OC | C15H12Cl2O2
reactant | AlCl3 | 34.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dichloro-4-hydroxy-2'-methylbenzophenone | ClC1=C(C(=O)C2=C(C=CC=C2)C)C=CC(=C1Cl)O | C14H10Cl2O2
